US04028410
A cold solution of 0.2346 g (3.4 mmole) sodium nitrite in 2 ml water was slowly added to a stirred solution of 0.2727 g (1.47 mmole) 1,3-bis(2-chloroethyl)urea in 2 ml 88% formic acid at 0°. After 2 hours at 0°, 0.1449 g (46.0%) of an oil solid phase was removed. The ir spectrum of this fraction failed to agree with that of BCNU. After 2 days a small amount of crystalline BCNU slowly formed in this oil phase. A methylene dichloride extract of the aqueous phase yielded 0.0943 g (30.0%) of an amber oil whose ir spectrum agreed with that of a known sample of BCNU. Treatment of this oil with 5 ml hexane and cooling to 0° gave crystalline BCNU which formed an oil on warming to ambient temperature.

reactant | sodium nitrite | 3.4 mmole, 0.2346 g | N(=O)[O-].[Na+]
reactant | 1,3-bis(2-chloroethyl)urea | 1.47 mmole, 0.2727 g | ClCCNC(=O)NCCCl | C5H10Cl2N2O
solvent | water | 2 ml | O | H2O
solvent | formic acid | 2 ml | C(=O)O | CH2O2
product | BCNU | C(CCl)NC(=O)N(CCCl)N=O | C5H9Cl2N3O2
